US08377923B2
WSC•monohydrochloride (7.84 g) and HOBt (4.25 g) were added to a solution of 2-(3,4-difluorophenoxy)-2-methylpropanoic acid (6.80 g) in dichloromethane (60 ml), followed by stirring at room temperature for one hour, tert-butyl carbazate (4.57 g) was added thereto, followed by stirring at room temperature for 14 hours. The reaction solution was concentrated under reduced pressure and ethyl acetate was then added thereto, the organic layer was washed with water, 0.5M hydrochloric acid, saturated aqueous sodium bicarbonate solution-water (1:1) and then saturated brine in this order, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting oil (10.2 g) was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate was added thereto, followed by stirring at room temperature for 5 hours, and then concentrated under reduced pressure. Ethyl acetate was added thereto, followed by stirring and collecting by filtration, to obtain, as a colorless solid, 2-(3,4-difluorophenoxy)-2-methylpropanohydrazide monohydrochloride (8.11 g).

reactant | HOBt | 4.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(3,4-difluorophenoxy)-2-methylpropanoic acid | 6.80 g | FC=1C=C(OC(C(=O)O)(C)C)C=CC1F | C10H10F2O3
reactant | tert-butyl carbazate | 4.57 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-(3,4-difluorophenoxy)-2-methylpropanohydrazide monohydrochloride | 8.11 g | Cl.FC=1C=C(OC(C(=O)NN)(C)C)C=CC1F | InChI=1S/C10H12F2N2O2.ClH/c1-10(2,9(15)14-13)16-6-3-4-7(11)8(12)5-6;/h3-5H,13H2,1-2H3,(H,14,15);1H
